US05658920
(1) 1-Acetylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene
8.7 gm of 1-nitro-6,7,8,9-tetrahydro-5H-benzocycloheptene [J. Am. Chem. Soc., 5820 (9169)] was dissolved into a mixed solvent of 150 ml of acetic anhydride and 50 ml of acetic acid. The mixture was catalytically hydrogenated with the addition of 10 ml of raney nickel. After removing the catalyst by filtration, the reaction mixture was concentrated, the residue was washed with saturated aqueous solution of sodium bicarbonate and saturated brine, and dried over anhydrous sodium sulfate. The product was concentrated to produce 6.17.gm of the title compound.

reactant | 1-nitro-6,7,8,9-tetrahydro-5H-benzocycloheptene | 8.7 gm | [N+](=O)([O-])C1=CC=CC2=C1CCCCC2 | C11H13NO2
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | raney nickel | 10 ml | [Ni] | Ni
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-Acetylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene | C(C)(=O)NC1=CC=CC2=C1CCCCC2 | C13H17NO
